US04582837
5-Fluoro-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole
Prepared analogously to Example 14 from 4-fluoro-1,2-phenylenediamine and 2-methoxy-4-methanesulfonylamino-benzoic acid.

reactant | 4-fluoro-1,2-phenylenediamine | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | 2-methoxy-4-methanesulfonylamino-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
product | 5-Fluoro-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole | FC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC)C=C1 | C15H14FN3O3S
